US06020336
Step a: 1-(3-Hydroxypropyl)-6-nitroindole
0.13 mol of potassium tert-butylate and 0.13 mol of 3-bromopropanol are added to a solution of 0.11 mol of 6-nitroindole in 400 ml of dimethylformamide. The reaction mixture is heated at 80° C. for 3 hours. After cooling, 300 ml of a 10% potassium carbonate solution are added, and the mixture is diluted with ethyl acetate. After decanting, the aqueous phase is extracted with dichloromethane, and the combined organic phases are then concentrated and purified by chromatography on silica gel to yield the expected product.

reactant | potassium tert-butylate | 0.13 mol | CC(C)(C)[O-].[K+]
reactant | 3-bromopropanol | 0.13 mol | BrCCCO | C3H7BrO
reactant | 6-nitroindole | 0.11 mol | [N+](=O)([O-])C1=CC=C2C=CNC2=C1 | C8H6N2O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(3-Hydroxypropyl)-6-nitroindole | OCCCN1C=CC2=CC=C(C=C12)[N+](=O)[O-] | C11H12N2O3
